US07893267B2
100 mg (0.25 mmol) of 2-[(6,7-dimethoxy-isoquinoline-3-carbonyl)-amino]-6-ethoxy-1H-benzoimidazole-4-carboxylic acid and 200 mg (0.53 mmol) of HBTU were dissolved in 1.0 mL of DMF and 0.5 mL of DIEA and treated with 200 mg (1.5 mmol) of 2-aminoimidazole sulfate as described in general procedure A. Upon completion, the reaction was diluted with brine. The resulting solid was filtered, washed with water and EtOAc, and dried under vacuum to produce 60 mg (47%) of 6,7-dimethoxy-isoquinoline-3-carboxylic acid [5-ethoxy-7-(1H-imidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide. LCMS: 502 (M+1)+.

reactant | 2-[(6,7-dimethoxy-isoquinoline-3-carbonyl)-amino]-6-ethoxy-1H-benzoimidazole-4-carboxylic acid | 0.25 mmol, 100 mg | COC=1C=C2C=C(N=CC2=CC1OC)C(=O)NC1=NC2=C(N1)C=C(C=C2C(=O)O)OCC | C22H20N4O6
reactant | HBTU | 0.53 mmol, 200 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-aminoimidazole sulfate | 1.5 mmol, 200 mg | S(=O)(=O)(O)O.NC=1NC=CN1
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 6,7-dimethoxy-isoquinoline-3-carboxylic acid [5-ethoxy-7-(1H-imidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide | 60 mg, 47% | C(C)OC1=CC2=C(NC(=N2)NC(=O)C=2N=CC3=CC(=C(C=C3C2)OC)OC)C(=C1)C(NC=1NC=CN1)=O | C25H23N7O5
